US04367234
5-(2,6-Dimethoxy-1-naphthyl)oxazolidine-2,4-dione
By the procedure of Example 12, Method A, ethyl 1-(2,6-dimethoxy-1-naphthyl)-1-hydroxymethanecarboximidate (3.0 g.) in 125 ml. of tetrahydrofuran converted to the desired product. To isolate, the reaction mixture was quenched by pouring slowly into 200 ml. of crushed ice and extracted with two 100 ml. portions of ethyl acetate. The combined extracts were dried over anhydrous magnesium sulfate, filtered, evaporated to semi-solids (2.6 g.) and crystallized by trituration with ether, affording 5-(2,6-dimethoxy-1-naphthyl)oxazolidine-2,4-dione (0.43 g.; m.p. 175°-180° C.; m/e 287).

reactant | ethyl 1-(2,6-dimethoxy-1-naphthyl)-1-hydroxymethanecarboximidate | 3.0 g | COC1=C(C2=CC=C(C=C2C=C1)OC)C(C(OCC)=N)O | C16H19NO4
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-(2,6-Dimethoxy-1-naphthyl)oxazolidine-2,4-dione | COC1=C(C2=CC=C(C=C2C=C1)OC)C1C(NC(O1)=O)=O | C15H13NO5
